US05055458
Bromotrimethylsilane (0.55 ml, 4.18 mmol) was added dropwise to a solution of 9-[3-(diethoxyphosphorylmethoxy)propoxy]adenine (0.25 g, 0.70 mmol) in dry dichloromethane (2 ml) and the reaction stirred under nitrogen at 25° C. for 3 h. After concentration in vacuo the residue was co-evaporated three times with methanol. Reverse-phase chromatography, eluting with 5% aqueous methanol gave 9-[3-(phosphonomethoxy)propoxy]adenine (152 mg, 71%) as a white solid; m.p. 246°-249° C. νmax (KBr) 3320, 3084, 1700, 1079 cm-1 ; δH [(CD3)2SO] 1.94(2H, t, J6.3 Hz, CH2CH2CH2), 3.56(2H, d, J8.5 Hz, CH2P), 3.70(2H, t, J6 Hz, CH2OCH2P), 4.43(2H, t, J6 Hz, NOCH2), 7.40(2H, br s, D2O exchangeable, NH2), 8.15(1H, s, H-2), 8.43(1H, s, H-8); Found: C, 34.15; H, 5.12; N, 21.89%; C9H14N5O5P.0.8H2O requires: C, 34.03; H, 4.95; N, 22.04%.

reactant | Bromotrimethylsilane | 4.18 mmol, 0.55 ml | Br[Si](C)(C)C | C3H9BrSi
reactant | 9-[3-(diethoxyphosphorylmethoxy)propoxy]adenine | 0.70 mmol, 0.25 g | C(C)OP(=O)(OCC)COCCCON1C2=NC=NC(=C2N=C1)N | C13H22N5O5P
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 9-[3-(phosphonomethoxy)propoxy]adenine | 152 mg, 71% | P(=O)(O)(O)COCCCON1C2=NC=NC(=C2N=C1)N | C9H14N5O5P
